US06949622B2
As used herein, the term polymer includes both high molecular weight polymers, for example bisphenol A polycarbonate having a number average molecular weight Mn of 10,000 atomic mass units (amu) or more, and relatively low molecular weight oligomeric materials, for example bisphenol A polycarbonate having a number average molecular weight of about 800 amu. Typically, the polymer-solvent mixture is a product mixture obtained after a polymerization reaction, or polymer derivatization reaction, conducted in a solvent. For example, the polymer-solvent mixture may be the product of the condensation polymerization of bisphenol A dianhydride (BPADA) with m-phenylenediamine in the presence of phthalic anhydride chainstopper in ODCB, or the polymerization of a bisphenol, such as bisphenol A, with phosgene conducted in a solvent such as methylene chloride. In the first instance, a water soluble catalyst is typically employed in the condensation reaction of BPADA with m-phenylenediamine and phthalic anhydride, and this catalyst can removed prior to any polymer isolation step. Thus, the product polyetherimide solution in ODCB is washed with water and the aqueous phase is separated to provide a water washed solution of polyetherimide in ODCB. In such an instance, the water washed solution of polyetherimide in ODCB may serve as the polymer-solvent mixture which is separated into polymeric and solvent components using the method described herein. Similarly, in the preparation of bisphenol A polycarbonate by reaction of bisphenol A with phosgene in a methylene chloride-water mixture in the presence of an inorganic acid acceptor such as sodium hydroxide, the reaction mixture upon completion of the polymerization is a two-phase mixture of polycarbonate in methylene chloride and brine. The brine layer is separated and the methylene chloride layer is washed with acid and pure water. The organic layer is then separated from the water layer to provide a water washed solution of bisphenol A polycarbonate in methylene chloride. Here again, the water washed solution of bisphenol A polycarbonate in methylene chloride may serve as the polymer-solvent mixture which is separated into polymeric and solvent components using the method described herein.

reactant | water | O | H2O
reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ODCB | C1=CC(=C(C=C1)Cl)Cl | C6H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
solvent | methylene chloride water | C(Cl)Cl.O
product | bisphenol A polycarbonate | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C(=O)(O)O | InChI=1S/C15H16O2.CH2O3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2-1(3)4/h3-10,16-17H,1-2H3;(H2,2,3,4)
